US04703121
5-fluorocytosine is prepared by reacting 2,5-difluoro-4-chloro-pyrimidine with a proton acid in the presence of water to yield 2-hydroxy-4-chloro-5-fluoropyrimidine and reacting the 2-hydroxy-4-chloro-5-fluoropyrimidine with ammonia to yield 5-fluoro-cytosine.

reactant | 2-hydroxy-4-chloro-5-fluoropyrimidine | OC1=NC=C(C(=N1)Cl)F | C4H2ClFN2O
reactant | ammonia | N | H3N
product | 5-fluoro-cytosine | FC=1C(=NC(NC1)=O)N | C4H4FN3O
